US07569579B2
Preparation 33: (1S)-3-(3-chlorophenyl)-3-cyano-1-{2-[(phenylmethyl)oxy]ethyl}propyl 4-methylbenzenesulfonate
To a solution of (4S)-2-(3-chlorophenyl)-4-hydroxy-6-[(phenylmethyl)oxy]hexanenitrile (6.00 g, 18.2 mmol) in 50% CHCl3 in pyridine at 0° C. was added DMAP (2.22 g) and toluenesulfonyl chloride (10.4 g, 54.5 mmol). After warming to room temperature over several hours, the reaction mixture was stored in the freezer for 2 days. After an aqueous work up with 1N HCl the organic layer was dried over MgSO4 and evaporated to an oil. Chromatography on silica with 25% EtOAc in Hexanes afforded the title compound (5.68 g, 66%) as a yellow oil. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.9 (m, 2H) 2.1 (m, 2H) 2.3 (m, 2H) 2.4 (s, 3H) 3.4 (m, 1H) 3.5 (m, 1H) 4.4 (m, 2H) 7.1 (m, 1H) 7.3 (m, 10H) 7.8 (m, 2H)

reactant | (4S)-2-(3-chlorophenyl)-4-hydroxy-6-[(phenylmethyl)oxy]hexanenitrile | 18.2 mmol, 6.00 g | ClC=1C=C(C=CC1)C(C#N)C[C@@H](CCOCC1=CC=CC=C1)O | C19H20ClNO2
reactant | toluenesulfonyl chloride | 54.5 mmol, 10.4 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 2.22 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (1S)-3-(3-chlorophenyl)-3-cyano-1-{2-[(phenylmethyl)oxy]ethyl}propyl 4-methylbenzenesulfonate | 5.68 g, 66% | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H](CC(C#N)C1=CC(=CC=C1)Cl)CCOCC1=CC=CC=C1 | C26H26ClNO4S
